US07932262B2
Step 2. Preparation of 2-Formyl-5-methoxyaniline
A flask was charged with 4-methoxy-2-nitrobenzaldehyde (14.7 g, 81.2 mmol, 1.0 eq), EtOH (270 mL), glacial AcOH (270 mL), H2O (135 mL), degassed and filled with argon. Then Fe powder (325 mesh) (27.2 g, 0.49 mol, 6.0 eq) was added followed by addition of concentrated HCl (12.24 mL, 0.148 mol, 1.8 eq). After stirring the reaction mixture for 1 hour at 60-65° C. (oil bath) TLC (EtOAc/Hex=4:6) showed that no starting material was left. The reaction mixture was cooled down to RT, diluted with 200 mL of H2O and neutralized with Na2CO3 to pH=7-8. The product was extracted into CH2Cl2. The emulsion that formed was filtered through celite, organic layer was washed with brine, dried over Na2SO4, concentrated giving 12.0 g (98% yield) of the title compound.

reactant | 4-methoxy-2-nitrobenzaldehyde | 81.2 mmol, 14.7 g, 1.0 eq | COC1=CC(=C(C=O)C=C1)[N+](=O)[O-] | C8H7NO4
reactant | EtOH | 270 mL | CCO | C2H6O
reactant | AcOH | 270 mL | CC(=O)O | C2H4O2
reactant | HCl | 0.148 mol, 12.24 mL, 1.8 eq | Cl | ClH
solvent | H2O | 200 mL | O | H2O
solvent | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Fe | 0.49 mol, 27.2 g, 6.0 eq | [Fe] | Fe
solvent | H2O | 135 mL | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-Formyl-5-methoxyaniline | 12.0 g, 98% yield | C(=O)C1=C(N)C=C(C=C1)OC | C8H9NO2
